US04404230
2-Chloro-6-nitro-benzoic acid chloride
1 ml of dimethyl formamide and 17.9 gm (0.15 mol) of thionyl chloride were added to a suspension of 20.1 gm (0.1 mol) of 2-chloro-6-nitro-benzoic acid in 150 ml of anhydrous benzene. The reaction mixture was stirred for 30 minutes and heated to reflux temperature. After 3 hours another 17.9 gm (0.15 mol) of thionyl chloride were added. The reaction mixture was further refluxed for 3 hours. After cooling, the reaction mixture filtered, and the filtrate was evaporated in vacuo.

reactant | dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.15 mol, 17.9 gm | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-6-nitro-benzoic acid | 0.1 mol, 20.1 gm | ClC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | thionyl chloride | 0.15 mol, 17.9 gm | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-Chloro-6-nitro-benzoic acid chloride | ClC1=C(C(=O)Cl)C(=CC=C1)[N+](=O)[O-] | C7H3Cl2NO3
